CAN mixed-signal - two NGHDL controllers on the analog PHY (Day 32)
* ============================================================
* THE POINT OF THE WHOLE PROJECT.
*
* Two can_node_top VHDL controllers, running as NGHDL models,
* driving the analog CAN physical layer characterised in Days
* 13-21, with the differential comparator feeding their receive
* inputs.
*
*   [VHDL node 0] --can_tx--> dac --> driver --+
*                                              |  CANH/CANL
*   [VHDL node 1] --can_tx--> dac --> driver --+  (wired-AND,
*                                              |   120 ohm term)
*                  comparator <------- diff ---+
*                       |
*                       +--> adc --> can_rx of BOTH nodes
*
* WHAT THIS TESTS THAT PURE VHDL COULD NOT
*   The wired-AND is now PHYSICAL - two driver stages sharing a
*   terminated differential pair, not an AND gate. Arbitration
*   and ACK depend on a node reading back an analog level that
*   another node pulled dominant. If the analog thresholds,
*   the driver on-resistance, or the comparator centring are
*   wrong, the protocol breaks here and not before.
*
* FROZEN PARAMETERS (docs/phy_spec.md)
*   bit rate      125 kbit/s      bit time 8.000 us
*   clock         2.000 MHz       16 tq per bit, tq = 500 ns
*   R_on          45 ohm          dominant Vdiff 2.0 V
*   termination   120 ohm x2      recessive both rails 2.5 V
*   comparator    centred 0.7 V, gain 10
*
* NODE IDENTITIES
*   id_sel = 00 -> ID 0x0A5   (node 0, lower ID, must WIN)
*   id_sel = 01 -> ID 0x123   (node 1, higher ID, must LOSE)
* ============================================================

.param VCC_V = 5.0
.param RON   = 45

Vcc  vcc  0 DC {VCC_V}
Vref vref 0 DC 2.5

* ============ 2.000 MHz clock, one time quantum ============
* 500 ns period, 50% duty
Vclk clk_a 0 PULSE(0 5 0 5n 5n 245n 500n)
Rclk clk_a 0 1meg

* ============ reset, released after 2 us ============
Vrst rst_a 0 PWL(0 0  1.9u 0  2.0u 5)
Rrst rst_a 0 1meg

* ============ transmit requests ============
* Both nodes are asked to transmit at the same instant, so they
* contend and arbitration decides. One clock wide (500 ns).
Vreq0 req0_a 0 PWL(0 0  10.0u 0  10.1u 5  10.6u 5  10.7u 0)
Rreq0 req0_a 0 1meg
Vreq1 req1_a 0 PWL(0 0  10.0u 0  10.1u 5  10.6u 5  10.7u 0)
Rreq1 req1_a 0 1meg

* ============ id_sel constants ============
* node 0 -> "00", node 1 -> "01"
Vs0h sel0_hi 0 DC 0
Vs0l sel0_lo 0 DC 0
Vs1h sel1_hi 0 DC 0
Vs1l sel1_lo 0 DC 5
Rs0h sel0_hi 0 1meg
Rs0l sel0_lo 0 1meg
Rs1h sel1_hi 0 1meg
Rs1l sel1_lo 0 1meg

* ============ analog -> digital bridges ============
.model adcmod adc_bridge(in_low=1.5 in_high=3.5)
.model dacmod dac_bridge(out_low=0 out_high=5 out_undef=2.5
+                        t_rise=20n t_fall=20n)

Aclk  [clk_a]  [clk_d]  adcmod
Arst  [rst_a]  [rst_d]  adcmod
Areq0 [req0_a] [req0_d] adcmod
Areq1 [req1_a] [req1_d] adcmod
As0h  [sel0_hi] [sel0_hi_d] adcmod
As0l  [sel0_lo] [sel0_lo_d] adcmod
As1h  [sel1_hi] [sel1_hi_d] adcmod
As1l  [sel1_lo] [sel1_lo_d] adcmod

* the received bus level, shared by both nodes
Arx [rx_ana] [rx_d] adcmod

* ============ the two VHDL controllers ============
* port order from connection_info.txt:
*   clk reset_n can_rx tx_req id_sel(2) | can_tx tx_busy tx_done
*   arb_lost rx_valid
a0 [clk_d] [rst_d] [rx_d] [req0_d] [sel0_hi_d sel0_lo_d]
+  [tx0_d] [busy0_d] [done0_d] [arb0_d] [rxv0_d]
+  [errf0_d] [boff0_d] node0
.model node0 can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9
+                         input_load=1.0e-12 instance_id=1)

a1 [clk_d] [rst_d] [rx_d] [req1_d] [sel1_hi_d sel1_lo_d]
+  [tx1_d] [busy1_d] [done1_d] [arb1_d] [rxv1_d]
+  [errf1_d] [boff1_d] node1
.model node1 can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9
+                         input_load=1.0e-12 instance_id=2)

* ============ digital -> analog: measurement taps ============
* Digital event nodes cannot be read by "meas tran v(...)" - they
* are not analog vectors. Convert every signal of interest back to
* analog so it can be measured.
Amb0 [busy0_d] [busy0_a] dacmod
Amb1 [busy1_d] [busy1_a] dacmod
Ama0 [arb0_d]  [arb0_a]  dacmod
Ama1 [arb1_d]  [arb1_a]  dacmod
Amd0 [done0_d] [done0_a] dacmod
Amr1 [rxv1_d]  [rxv1_a]  dacmod
Amef0 [errf0_d] [errf0_a] dacmod
Amef1 [errf1_d] [errf1_a] dacmod
Ambo0 [boff0_d] [boff0_a] dacmod
Ambo1 [boff1_d] [boff1_a] dacmod
Amck [clk_d]   [clk_chk] dacmod
Amrq [req0_d]  [req0_chk] dacmod
Amrs [rst_d]   [rst_chk] dacmod
Rmb0 busy0_a 0 1meg
Rmb1 busy1_a 0 1meg
Rma0 arb0_a 0 1meg
Rma1 arb1_a 0 1meg
Rmd0 done0_a 0 1meg
Rmr1 rxv1_a 0 1meg
Rmef0 errf0_a 0 1meg
Rmef1 errf1_a 0 1meg
Rmbo0 boff0_a 0 1meg
Rmbo1 boff1_a 0 1meg
Rmck clk_chk 0 1meg
Rmrq req0_chk 0 1meg
Rmrs rst_chk 0 1meg

* ============ digital -> analog: the bus drivers ============
Adac0 [tx0_d] [tx0_a] dacmod
Adac1 [tx1_d] [tx1_a] dacmod

* dominant is logic 0, and the switch model closes on a HIGH
* control voltage, so invert
Bdrv0 ctrl0 0 V = 5 - V(tx0_a)
Bdrv1 ctrl1 0 V = 5 - V(tx1_a)

.model swmod SW(Vt=2.5 Vh=0.2 Ron={RON} Roff=1e9)

* node 0 driver stage
Sh0 vcc  canh ctrl0 0 swmod
Sl0 canl 0    ctrl0 0 swmod

* node 1 driver stage - SAME differential pair, so the wired-AND
* is physical: either driver alone pulls the bus dominant
Sh1 vcc  canh ctrl1 0 swmod
Sl1 canl 0    ctrl1 0 swmod

* ============ the bus itself ============
Rterm_a canh canl 120
Rterm_b canh canl 120
Rbias1  canh vref 10k
Rbias2  canl vref 10k
Cbush   canh 0 500p
Cbusl   canl 0 500p
Rleak1  canh 0 100meg
Rleak2  canl 0 100meg

* ============ differential receiver ============
Bdiff vdiff 0 V = V(canh) - V(canl)
Rdiff vdiff 0 1meg
Bcomp rx_ana 0 V = 2.5*(1 - tanh(10*(V(canh)-V(canl)-0.7)))
Rcomp rx_ana 0 1meg

* ============ analysis ============
* One frame is about 50 bits at 8 us = 400 us. Run to 600 us so
* the frame completes with margin.
.tran 100n 600u

.control
  run

  echo ""
  echo "================ MIXED-SIGNAL CAN ================"
  echo ""
  echo "--- inputs actually reaching the models ---"
  meas tran clk_hi  MAX v(clk_chk)  FROM=5u TO=25u
  meas tran clk_lo  MIN v(clk_chk)  FROM=5u TO=25u
  meas tran rst_hi  MAX v(rst_chk)  FROM=5u TO=25u
  meas tran req_hi  MAX v(req0_chk) FROM=9u TO=12u
  echo ""
  echo "--- bus levels ---"
  meas tran vdiff_dom  MIN  v(vdiff) FROM=20u TO=500u
  meas tran vdiff_rec  MAX  v(vdiff) FROM=20u TO=500u
  echo ""
  echo "--- did the nodes transmit? ---"
  meas tran busy0_hi MAX v(busy0_a) FROM=10u TO=500u
  meas tran busy1_hi MAX v(busy1_a) FROM=10u TO=500u
  echo ""
  echo "--- ARBITRATION: node 1 must lose, node 0 must not ---"
  meas tran arb0_max MAX v(arb0_a) FROM=10u TO=500u
  meas tran arb1_max MAX v(arb1_a) FROM=10u TO=500u
  echo ""
  echo "--- ERROR FRAMES and BUS-OFF (should be 0 on clean traffic) ---"
  meas tran errf0 MAX v(errf0_a) FROM=10u TO=600u
  meas tran errf1 MAX v(errf1_a) FROM=10u TO=600u
  meas tran boff0 MAX v(boff0_a) FROM=10u TO=600u
  meas tran boff1 MAX v(boff1_a) FROM=10u TO=600u
  echo ""
  echo "--- ACK and RECEPTION ---"
  meas tran done0_max MAX v(done0_a) FROM=10u TO=600u
  meas tran rxv1_max  MAX v(rxv1_a)  FROM=10u TO=600u
  echo ""
  echo "================ EXPECTED ================"
  echo "  vdiff_dom  about -2.0 V   (canh-canl inverted sign: the"
  echo "             measurement is MIN so dominant shows as the"
  echo "             largest magnitude)"
  echo "  vdiff_rec  about  0 V"
  echo "  busy0/1    5 V - both nodes started transmitting"
  echo "  arb0_max   0 V - node 0 has the LOWER id and must WIN"
  echo "  arb1_max   5 V - node 1 must detect the loss"
  echo "  done0_max  5 V - node 0 frame acknowledged by node 1"
  echo "  rxv1_max   5 V - node 1 received node 0 frame"
  echo ""

  write can_mixed.raw
.endc

.end
